US04507462
Polymer Synthesis: Biphenylene End-Capped Polyquinoline
Mn=5,000. For the polymerization, 0.7629 g (3.000 mmoles) of 4,4'-oxy-bis(acetophenone) (Jones, M. E. B.; Thorton, D. A.; Webb, R. F. Makromol. Chem., 1961, 49, 62. Shamis, E. M.; Dashevskii, M. M. J. Org. Chem. USSR (Engl. Transl.), 1967, 3, 1005), 1.4435 g (3.534 mmoles) of 4,4'-oxy-bis(2-benzoylbenzeneamine) (Norris, S. O.; Stille, J. K. Macromolecules, 1976, 9, 496), 23.5 g (84.8 mmoles) of di-m-cresylphosphate (Beever, W. H.; Stille, J. K. J. Polym. Sci., Polym. Symp. 1978, 65, 41), and 7 mL of distilled m-cresol were mixed in a resin kettle fitted with a mechanical stirrer and nitrogen inlet and outlet. The resin kettle was purged with N2, heated at 135°-137° C. for 24 h under static N2, then cooled slightly and 0.2590 g (1.335 mmoles, 25% excess) of 2-acetylbiphenylene was added. The resin kettle was again purged with N2 and heated at 135°-137° C. under static N2 for 24 more hours at which time the dark red solution was poured into a vigorously stirred solution of 360 mL of ethanol and 30 mL of triethylamine. The mixture was ground-up at high speed in a blender and suction filtered. The resulting yellow powder was Soxhlet extracted for 62 h with 300 mL of ethanol and 25 mL of triethylamine then dried at 0.01 mm Hg and 105° C. for 48 h. Yield: 1.8 g (75%); ηint25°C. =0.25; Anal. Calcd: C, 85.91; H, 4.45; N, 4.63. Found: C, 84.93; H, 4.07; N, 4.48.

reactant | 4,4'-oxy-bis(2-benzoylbenzeneamine) | 3.534 mmoles, 1.4435 g | O(C1=CC(=C(C=C1)N)C(C1=CC=CC=C1)=O)C1=CC(=C(C=C1)N)C(C1=CC=CC=C1)=O | C26H20N2O3
reactant | di-m-cresylphosphate | 84.8 mmoles, 23.5 g | C1(=CC(=CC=C1)C)OP(=O)(OC1=CC(=CC=C1)C)[O-]
reactant | m-cresol | 7 mL | C1=C(C=CC=C1O)C | C7H8O
reactant | 2-acetylbiphenylene | 1.335 mmoles, 0.2590 g | C(C)(=O)C1=CC=2C3=CC=CC=C3C2C=C1 | C14H10O
product | Biphenylene | C1=CC=CC=2C3=CC=CC=C3C12 | C12H8
